US05977105
b) (±)-1-(4-Bromophenoxy)-4-(3-pyridyl)-2-(tert-butyldimethylsilyloxy)butane
Imidazole (0.73 g) and dimethylaminopyridine (10 mg) was added to a solution of (±)-1-(4-bromophenoxy)-4-(3-pyridyl)-2-butanol (2.20 g) in dimethylformamide (15 ml). When the mixture was homogeneous solid tert-butyldimethylsilyl chloride was added and the solution stirred for 26 hours. A saturated aqueous solution of sodium chloride (200 ml) was added and the mixture extracted with ether (3×100 ml). The combined organic extracts were dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure to give the sub-title compound as an oil (2.75 g).

reactant | Imidazole | 0.73 g | N1C=NC=C1 | C3H4N2
reactant | (±)-1-(4-bromophenoxy)-4-(3-pyridyl)-2-butanol | 2.20 g | BrC1=CC=C(OCC(CCC=2C=NC=CC2)O)C=C1 | C15H16BrNO2
reactant | tert-butyldimethylsilyl chloride | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | sodium chloride | 200 ml | [Cl-].[Na+]
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
catalyst | dimethylaminopyridine | 10 mg | CN(C)C1=NC=CC=C1 | C7H10N2
product | (±)-1-(4-Bromophenoxy)-4-(3-pyridyl)-2-(tert-butyldimethylsilyloxy)butane | 2.75 g | BrC1=CC=C(OCC(CCC=2C=NC=CC2)O[Si](C)(C)C(C)(C)C)C=C1 | C21H30BrNO2Si
